* Schematics Netlist *



R_R1         $N_0001 0  1k  
R_R3         $N_0002 0  1k  
R_R2         $N_0003 0  1k  
V_Vu         $N_0001 0 DC 0 AC 0
+SIN 0 310 100 0 0 0
V_Vv         $N_0003 0 DC 0 AC 0
+SIN 0 310 100 0 0 120
V_Vw         $N_0002 0 DC 0 AC 0
+SIN 0 310 100 0 0 240
